US08304446B2
4-Chloro-1H-indazol-3-amine
To a solution of 2-chloro-6-fluorobenzonitrile (ABCR) (3 g, 19 mmol) in anhydrous ethanol (50 mL) was added hydrazine hydrate (3.74 mL, 77 mmol). The reaction was heated at 90° C. under a nitrogen for 3.5 hours. The reaction mixture was cooled to room temperature, treated with acetone (20 mL) and left to stand for 19 hours. The mixture was evaporated in-vacuo to yield an orange/brown solid, which was partitioned between saturated aqueous sodium hydrogen carbonate solution and dichloromethane. The organic layer was passed through a hydrophobic frit and evaporated in-vacuo to yield a brown solid, which was absorbed onto Florisil (60-100 mesh), applied to a 100 g silica SPE cartridge and purified by chromatography on Flashmaster II using a 0-10% methanol in dichloromethane gradient over 60 min. Fractions 24-29 were combined and the solvent was evaporated in-vacuo to yield the title compound as a yellow solid (2.14 g, 66%) LCMS (System B) RT=1.58 min, ES+ve m/z 168 (M+H)+.

reactant | 2-chloro-6-fluorobenzonitrile | 19 mmol, 3 g | ClC1=C(C#N)C(=CC=C1)F | C7H3ClFN
reactant | hydrazine hydrate | 77 mmol, 3.74 mL | O.NN
reactant | acetone | 20 mL | CC(=O)C | C3H6O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 4-Chloro-1H-indazol-3-amine | 2.14 g, 66% | ClC1=C2C(=NNC2=CC=C1)N | C7H6ClN3
